US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in tetrahydrofuran (4 ml), then thereto are added sodium hydride (12 mg) and methyl iodide (0.02 ml) under ice-cooling, and the mixture is stirred at room temperature for 3 hours and 30 minutes. A saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=4:1→3:2) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (92 mg). MS (m/z): 628 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-hydroxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CO)CC | C28H29F6N5O4
reactant | sodium hydride | 12 mg | [H-].[Na+]
reactant | methyl iodide | 0.02 ml | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxymethylpyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 92 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)COC)CC | C29H31F6N5O4
